US08168651B2
Methyl 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-7-carboxylate (1.0 eq, 85 mg, 0.334 mmol) was stirred in phosphorus oxychloride (2 ml) at 120° C. for 2 hours. The solvent was removed in vacuo. Ice and water were added. The resulting solid was filtered and dried to afford methyl 5-chlorobenzo[c][2,6]naphthyridine-7-carboxylate as a solid (84 mg, 92% yield). LCMS (ES): >95% pure, m/z 273 [M+1]+.

reactant | Methyl 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-7-carboxylate | 0.334 mmol, 85 mg, 1.0 eq | O=C1NC=2C(C3=CN=CC=C13)=CC=CC2C(=O)OC | C14H10N2O3
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | methyl 5-chlorobenzo[c][2,6]naphthyridine-7-carboxylate | 84 mg, 92% yield | ClC1=NC=2C(C3=CN=CC=C13)=CC=CC2C(=O)OC | C14H9ClN2O2
